US06235789B1
(1,2,3,4-Tetrahydro-7-methoxy-2,2-dimethyl-1-naphthylidene)acetonitrile
To a solution of 1-cyanomethyl-1-hydroxy-7-methoxy-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene (5.27 g, 21.5-mmol) in toluene (50 ml) was added camphor sulfonic acid (0.5 g, 2.15 mmol). The mixture was heated for one hour under reflux. The reaction mixture was poured into a saturated aqueous solution of sodium hydrogencarbonate, and the organic layer was subjected to extraction with chloroform. The extract solution was washed with brine and water, which was dried over magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (ethyl acetate:hexane=2:8) to give the above-titled compound (a mixture of isomers) (4.88 g, quantitative).

reactant | 1-cyanomethyl-1-hydroxy-7-methoxy-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene | 21.5-mmol, 5.27 g | C(#N)CC1(C(CCC2=CC=C(C=C12)OC)(C)C)O | C15H19NO2
reactant | camphor sulfonic acid | 2.15 mmol, 0.5 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (1,2,3,4-Tetrahydro-7-methoxy-2,2-dimethyl-1-naphthylidene)acetonitrile | COC1=CC=C2CCC(C(C2=C1)=CC#N)(C)C | C15H17NO
